US07304081B2
Step 1. 1-(2-naphthyl)cyclopropanecarboxylic acid
Sodium hydroxide(50% aqueous solution, 3.20 g, 0.0552 mol) was added to a mixture of 2-naphthylacetonitrile (0.913 g, 0.00546 mol), benzyltriethylammonium chloride (0.09 g, 0.0004 mol), and 1-bromo-2-chloro-ethane (1.58 g, 0.0110 mol) at 50 celsius for 5 h. Then 1,2-ethanediol (10.0 mL, 0.179 mol) was added and the mixture was heated at 100° C. overnight. The mixture was poured into ice-water (30 mL) and was extracted with ethyl ether (2×10 mL). The aqueous phase was acidified (pH=2) with 1N HCl and was extracted with ethyl acetate (4×15 mL). The combined organic phase was washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was the desired product, which was directly used in next step reaction without further purification.

reactant | Sodium hydroxide | 0.0552 mol, 3.20 g | [OH-].[Na+]
reactant | 2-naphthylacetonitrile | 0.00546 mol, 0.913 g | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 1-bromo-2-chloro-ethane | 0.0110 mol, 1.58 g | BrCCCl | C2H4BrCl
reactant | 1,2-ethanediol | 0.179 mol, 10.0 mL | C(CO)O | C2H6O2
catalyst | benzyltriethylammonium chloride | 0.0004 mol, 0.09 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(2-naphthyl)cyclopropanecarboxylic acid | C1=C(C=CC2=CC=CC=C12)C1(CC1)C(=O)O | C14H12O2
